US06977261B2
Step (1): 3-(7-bromo-1-oxo-1H-8-azaisoquinolin-2-ylmethyl)benzoic acid methyl ester
The alkylation of 7-bromo-1-hydroxy-8-azaisoquinoline (1.00 g, 4.46 mmol) using methyl 3-(bromomethyl)benzoate (1.53 g, 6.69 mmol) and cesium carbonate (2.18 g, 6.69 mmol) in dimethyl-formamide is carried out as previously described in Example 1, Step (1). Purification on a silica gel column eluted with hexanes/ethyl acetate 3:1, followed by trituration with hexanes/ethyl acetate 4:1 will afford the desired product. Step (2): 3-[1-oxo-7-(3-phenyl-prop-1-ynyl)-1H-8-azaisoquinolin-2-ylmethyl]benzoic acid methyl ester

reactant | 7-bromo-1-hydroxy-8-azaisoquinoline | 4.46 mmol, 1.00 g | BrC1=CC=C2C=CN=C(C2=N1)O | C8H5BrN2O
reactant | methyl 3-(bromomethyl)benzoate | 6.69 mmol, 1.53 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | cesium carbonate | 6.69 mmol, 2.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl-formamide | CN(C=O)C | C3H7NO
product | 3-(7-bromo-1-oxo-1H-8-azaisoquinolin-2-ylmethyl)benzoic acid methyl ester | COC(C1=CC(=CC=C1)CN1C(C2=NC(=CC=C2C=C1)Br)=O)=O | C17H13BrN2O3
